US06413958B2
N-(4-chlorobenzyl)-4-hydroxy-6-iodo-7-methyl[1,8]naphthyridine-3-carboxamide
A solution of ethyl 4-hydroxy-6-iodo-7-methyl[1,8]naphthyridine-3-carboxylate Prep 4(0.41 g) and 4-chlorobenzylamine (2.50 mL) is heated at 180° C. for 1 h. The reaction is cooled to room temperature. Ethyl acetate (10 mL) and then hexanes (20 mL) are added and the solid is filtered, washed thoroughly with hexanes, and dried. The crude solid is dissolved in CH2Cl2/MeOH and adsorbed onto silica. Purification by chromatography (eluent CH2Cl2 (1L), 1% MeOH/CH2Cl2 (3L), 1.5% MeOH/CH2Cl2 (1L), 2% MeOH/CH2Cl2 (2L)) affords the desired product as a white solid (0.30 g, 0.66 mmol, 58%). Physical characteristics are as follows: m.p. 276-277° C.; 1H NMR (300 MHz, DMSO-d6) δ 13.17, 10.10, 8.83, 8.66, 7.40, 7.35, 4.54, 2.77; IR (drift) 3063, 3022, 2957, 2895, 1650, 1596, 1552, 1521, 1493, 1405, 1352, 1323, 1241, 1095, 807 cm−1; MS (ESI) m/z 453.6 (M+H)+, 451.7 (M−H)−; Anal. Calcd for C17H13ClIN3O2: C, 45.01; H, 2.89; N, 9.26; Found: C, 44.92; H, 2.78; N, 9.17.

reactant | ethyl 4-hydroxy-6-iodo-7-methyl[1,8]naphthyridine-3-carboxylate | OC1=C(C=NC2=NC(=C(C=C12)I)C)C(=O)OCC | C12H11IN2O3
reactant | 4-chlorobenzylamine | 2.50 mL | ClC1=CC=C(CN)C=C1 | C7H8ClN
solvent | Ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
product | N-(4-chlorobenzyl)-4-hydroxy-6-iodo-7-methyl[1,8]naphthyridine-3-carboxamide | 0.66 mmol, 0.30 g, 58% | ClC1=CC=C(CNC(=O)C=2C=NC3=NC(=C(C=C3C2O)I)C)C=C1 | C17H13ClIN3O2
